US07674809B2
31b) 2-(3-trifluromethylphenyl)-5-nitrobenzoxazole
3-Trifluoromethylbenzoyl chloride (9.03 g, 0.043 mol) and 2-hydroxy-5-nitroaniline (6.58 g, 0.041 mol) in toluene (200 ml) are refluxed for 48 hours. POCl3 (20 ml) is added, the mixture is refluxed for a further 2 hours and concentrated, and the solid is recrystallized from NaOH (pH=10). The product is filtered off and recrystallized from water and finally from isopropyl ether. Yield: 10.3 g (78%); Rf (8/2 petroleum ether/ethyl acetate): 0.58; IR (KBr): 3085, 1620, 1531, 1425, 1340 cm−1.

reactant | 3-Trifluoromethylbenzoyl chloride | 0.043 mol, 9.03 g | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
reactant | 2-hydroxy-5-nitroaniline | 0.041 mol, 6.58 g | OC1=C(N)C=C(C=C1)[N+](=O)[O-] | C6H6N2O3
reactant | POCl3 | 20 ml | O=P(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(3-trifluromethylphenyl)-5-nitrobenzoxazole | FC(C=1C=C(C=CC1)C=1OC2=C(N1)C=C(C=C2)[N+](=O)[O-])(F)F | C14H7F3N2O3
